US08580831B2
2-Methyl-5-m-tolyl-oxazole-4-carboxylic acid {2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide
Following general procedure A, starting from 2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 2-methyl-5-m-tolyl-oxazole-4-carboxylic acid.

reactant | 2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | FC(C)(F)C=1N=C(OC1)CN1N=CC(=N1)N | C8H9F2N5O
reactant | 2-methyl-5-m-tolyl-oxazole-4-carboxylic acid | CC=1OC(=C(N1)C(=O)O)C=1C=C(C=CC1)C | C12H11NO3
product | 2-Methyl-5-m-tolyl-oxazole-4-carboxylic acid {2-[4-(1,1-difluoro-ethyl)-oxazol-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide | FC(C)(F)C=1N=C(OC1)CN1N=CC(=N1)NC(=O)C=1N=C(OC1C=1C=C(C=CC1)C)C | C20H18F2N6O3
